US04918074
A mixture of 20.0 g of 6-methoxycarbonyl-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine, 200 ml of acetic acid and 3.0 g of 10 palladium-carbon is stirred at room temperature for 5 hours under hydrogen gas. After an insoluble material is filtered off, the filtrate is neutralized with sodium bicarbonate, and extracted with chloroform. The extract is dried and the solvent is distilled off under reduced pressure. The precipitated pale yellow crystals are collected by filtration and recrystallized from methanol to give 11.0 g of 5-(3-aminophenyl)-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine, melting at 224°-225° C.

reactant | 6-methoxycarbonyl-7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 20.0 g | COC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C | C15H14N4O4
catalyst | palladium-carbon | [C].[Pd]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-(3-aminophenyl)-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine | 11.0 g | NC=1C=C(C=CC1)C1C(=C(NC=2N1C=CN2)C)C(=O)OC | C15H16N4O2
